US05082976
50 mmol of β-morpholino-2-nitrostyrene and 1 g of CuCl were initially introduced into 120 ml of DMSO and aerated at 60° C. for 90 min. using oxygen. After concentrating and customary working-up, 0.41 mol of o-nitrobenzaldehyde was isolated.

reactant | β-morpholino-2-nitrostyrene | 50 mmol | O1CCN(CC1)C=CC1=C(C=CC=C1)[N+](=O)[O-] | C12H14N2O3
reactant | oxygen | O=O | O2
catalyst | CuCl | 1 g | Cl[Cu]
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
product | o-nitrobenzaldehyde | 0.41 mol | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
